US07459451B2
A mixture of 5-methylnicotinaldehyde (400 mg), ethyl benzoylacetate (635 mg), AcOH (0.15 ml), piperidine (0.15 ml) in EtOH (5 ml) was stirred at room temperature for 24 hours. After evaporation, the residue was diluted with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo to give ethyl (2Z)-2-benzoyl-3-(5-methyl-3-pyridyl)acrylate (986 mg) as a yellow oil.

reactant | 5-methylnicotinaldehyde | 400 mg | CC=1C=NC=C(C=O)C1 | C7H7NO
reactant | ethyl benzoylacetate | 635 mg | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | AcOH | 0.15 ml | CC(=O)O | C2H4O2
reactant | piperidine | 0.15 ml | N1CCCCC1 | C5H11N
solvent | EtOH | 5 ml | CCO | C2H6O
product | ethyl (2Z)-2-benzoyl-3-(5-methyl-3-pyridyl)acrylate | 986 mg | C(C1=CC=CC=C1)(=O)/C(/C(=O)OCC)=C/C=1C=NC=C(C1)C | C18H17NO3
